* 1x Sensed Unit-Cell 6-Point DC Experiment (V_bias = 0.25515 V)
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerDIO.lib dio_tt

VCC VCC 0 DC 2.500
VDD VDD 0 DC 1.200
VSS VSS 0 DC 0.000

* Explicit Test Base Drive Sources (Digital level driver UNIMPLEMENTED)
VTRIM_P TRIM_P 0 DC 1.000
VTRIM_N TRIM_N 0 DC 0.800

* Explicit Collector Common-Mode Voltage Source
VCP c_p 0 DC 2.100
VCN c_n 0 DC 2.100

* Dummy Sweep Source for single-point wrdata
VDUMMY dummy 0 DC 0.0

* 1x Unit Current Sink NMOS (sg13_lv_nmos w=2.0u l=1.0u)
VBIAS v_bias 0 DC 0.25515
XM_SINK d_sink v_bias VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=1 m=1

* Zero-Volt Series Sense Source for True NMOS Drain Current
V_TAIL_SENSE e_st_tail d_sink DC 0.000

* 1x Differential Steering HBT Pair (npn13G2 Nx=1)
XQST_P c_p TRIM_P e_st_tail sub! npn13G2 Nx=1 mm_ok=1
XQST_N c_n TRIM_N e_st_tail sub! npn13G2 Nx=1 mm_ok=1

XTAP1 VSS sub! ptap1

.option temp = 27.0
.options rshunt=1e12 method=gear reltol=1e-3

.control
pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103_nqs.osdi
set filetype=ascii

* Run 1: Left Steer (P=1.0V, N=0.8V), V_cm = 1.9 V
alter VTRIM_P DC = 1.000
alter VTRIM_N DC = 0.800
alter VCP DC = 1.900
alter VCN DC = 1.900
dc VDUMMY 0 0 1
wrdata raw_unit_run1.txt i(V_TAIL_SENSE) i(VTRIM_P) i(VTRIM_N) i(VCP) i(VCN) v(e_st_tail) v(TRIM_P) v(TRIM_N) v(c_p) v(c_n) v(v_bias)

* Run 2: Left Steer (P=1.0V, N=0.8V), V_cm = 2.1 V
alter VCP DC = 2.100
alter VCN DC = 2.100
dc VDUMMY 0 0 1
wrdata raw_unit_run2.txt i(V_TAIL_SENSE) i(VTRIM_P) i(VTRIM_N) i(VCP) i(VCN) v(e_st_tail) v(TRIM_P) v(TRIM_N) v(c_p) v(c_n) v(v_bias)

* Run 3: Left Steer (P=1.0V, N=0.8V), V_cm = 2.2 V
alter VCP DC = 2.200
alter VCN DC = 2.200
dc VDUMMY 0 0 1
wrdata raw_unit_run3.txt i(V_TAIL_SENSE) i(VTRIM_P) i(VTRIM_N) i(VCP) i(VCN) v(e_st_tail) v(TRIM_P) v(TRIM_N) v(c_p) v(c_n) v(v_bias)

* Run 4: Right Steer (P=0.8V, N=1.0V), V_cm = 1.9 V
alter VTRIM_P DC = 0.800
alter VTRIM_N DC = 1.000
alter VCP DC = 1.900
alter VCN DC = 1.900
dc VDUMMY 0 0 1
wrdata raw_unit_run4.txt i(V_TAIL_SENSE) i(VTRIM_P) i(VTRIM_N) i(VCP) i(VCN) v(e_st_tail) v(TRIM_P) v(TRIM_N) v(c_p) v(c_n) v(v_bias)

* Run 5: Right Steer (P=0.8V, N=1.0V), V_cm = 2.1 V
alter VCP DC = 2.100
alter VCN DC = 2.100
dc VDUMMY 0 0 1
wrdata raw_unit_run5.txt i(V_TAIL_SENSE) i(VTRIM_P) i(VTRIM_N) i(VCP) i(VCN) v(e_st_tail) v(TRIM_P) v(TRIM_N) v(c_p) v(c_n) v(v_bias)

* Run 6: Right Steer (P=0.8V, N=1.0V), V_cm = 2.2 V
alter VCP DC = 2.200
alter VCN DC = 2.200
dc VDUMMY 0 0 1
wrdata raw_unit_run6.txt i(V_TAIL_SENSE) i(VTRIM_P) i(VTRIM_N) i(VCP) i(VCN) v(e_st_tail) v(TRIM_P) v(TRIM_N) v(c_p) v(c_n) v(v_bias)

.endc
.end
